datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([S:12][H:22])[c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:19])([H:20])[H:21])([S:12][H:22])[c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27],12.9704
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:6])[H:7].[H:5][C:10]([H:11])([H:12])[H:13],40.258448
[O:0]=[S:1]=[O:2].[O:3][H:4]>>[O:0]([S:1]=[O:2])[H:4].[O:3],317.984
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:4]([H:15])[H:16])[H:14])[H:10])([H:7])([H:8])[H:9].[O:5][O:6][H:17],62.76
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]2([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]12[H:20]>>[C:0]1([H:10])=[C:9]2[C:3]([H:13])([C:2]([H:12])=[C:1]1[H:11])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]2[H:19].[H:20],160.2472
[C:0]([C:1]=[C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])[H:9])([H:10])[H:11],155.197112
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:22]([C:21](=[C:20]([H:24])[H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:13])[H:12])([H:10])[H:11],48.0323
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9](=[S:10])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:14])[H:4].[C:7](=[C:8]([C:9]=[S:10])[H:13])([H:11])[H:12],15.4808
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:34]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])[H:12].[H:13][H:34],0.0
[C:0](=[C:1]=[O:2])([H:3])[H:4].[C:5]([O:6])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[O:2])[O:6][C:5]([H:7])([H:8])[H:9])([H:3])[H:4],-4.184
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])=[C:8]([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])([H:20])[H:21])([H:18])[H:19])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([C:7]([H:22])([H:23])[H:24])[C:8]1([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:14])([H:12])[H:13],112.591
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5][O:6][H:7]>>[C:0]([O:1][H:7])([H:2])([H:3])[H:4].[O:5][O:6],0.0
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14],0.0
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([S:10][H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]([S:10][H:13])([H:11])[H:12],30.1248
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9](#[C:10][C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:11]([C:10]#[C:9][H:12])([H:13])[H:14])[H:5],45.1035
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])[H:12])([H:9])([H:10])[H:11],48.116
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([H:27])[H:28])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:24](=[C:25]([H:27])[H:28])[H:26])[H:14])([H:12])[H:13],12.552
